US04452990
A solution of 13 g of 5-oxo-2-pyrrolidinepropanoic acid benzyl ester in 250 ml of tetrahydrofuran is treated with 14.0 g of 3-benzyloxy-4-methoxybenzoyl chloride. The mixture is heated to 55° C. and a solution of 5.5 g of triethylamine in 400 ml of tetrahydrofuran is added dropwise over a two hour period. The mixture is stirred and heated at 55° C. for 16 hours. The warm mixture is filtered through filter aid to remove triethylamine hydrochloride and concentrated at reduced pressure. Chromatography over silica using a Waters Prep 500 HPLC apparatus yields 1-(3-benzyloxy-4-methoxybenzoyl)-5-oxo-2-pyrrolidinepropanoic acid benzyl ester with mp 92°-95° C. after concentration and crystallization.

reactant | 5-oxo-2-pyrrolidinepropanoic acid benzyl ester | 13 g | C(C1=CC=CC=C1)OC(CCC1NC(CC1)=O)=O | C14H17NO3
reactant | 3-benzyloxy-4-methoxybenzoyl chloride | 14.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1OC | C15H13ClO3
reactant | triethylamine | 5.5 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-(3-benzyloxy-4-methoxybenzoyl)-5-oxo-2-pyrrolidinepropanoic acid benzyl ester | C(C1=CC=CC=C1)OC(CCC1N(C(CC1)=O)C(C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=O)=O | C29H29NO6
